US07276518B2
2.00 g 4-dimethylamino-4-phenyl-cyclohexanone were dissolved in 30 ml analytical grade tetrahydrofuran, and 986 mg benzylamine followed by 794 μl glacial acetic acid were added, while stirring in an ice-bath. 2.72 g sodium triacetoxyborohydride were then added in portions in the course of 15 minutes and the mixture was subsequently stirred for approx. 65 hours. For working up, 15 ml two molar sodium hydroxide solution were added dropwise (pH>10) and the mixture was extracted three times with 25 ml diethyl ether each time. The combined organic phases were then washed twice with 20 ml water each time, dried over sodium sulfate and filtered and the filtrate was concentrated. The crude product obtained was chromatographed over silica gel with diethyl ether with the addition of one percent by volume of aqueous ammonia solution (25 wt. %). 844 mg of the nonpolar diastereoisomer of N′-benzyl-N,N-dimethyl-1-phenyl-cyclohexane-1,4-diamine were obtained, and were converted into 843 mg of the corresponding hydrochloride by dissolving in 6.8 ml 2-butanone and addition of 27.1 μl water followed by 381 μl chlorotrimethylsilane and stirring overnight.

reactant | 4-dimethylamino-4-phenyl-cyclohexanone | 2.00 g | CN(C1(CCC(CC1)=O)C1=CC=CC=C1)C | C14H19NO
reactant | benzylamine | 986 mg | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium triacetoxyborohydride | 2.72 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | two molar, 15 ml | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | acetic acid | 794 μl | C(C)(=O)O | C2H4O2
product | N′-benzyl-N,N-dimethyl-1-phenyl-cyclohexane-1,4-diamine | C(C1=CC=CC=C1)NC1CCC(CC1)(N(C)C)C1=CC=CC=C1 | C21H28N2
